US09446130B2
To a solution of (S)-methyl 4-(8-((2,4-dimethoxybenzyl)amino)-3-(2-oxopiperidin-3-yl)imidazo[1,5-a]pyrazin-1-yl)benzoate (940 mg, 1.82 mmol) in toluene (25 mL) was added Lawesson's reagent (1.5 g, 3.65 mmol). The mixture was heated to reflux overnight. The solvent was evaporated and the residue was purified by column chromatography on silica gel eluted with EA:DCM:THF=1:2:1 to give (S)-methyl 4-(8-((2,4-dimethoxybenzyl)amino)-3-(2-thioxopiperidin-3-yl)imidazo[1,5-a]pyrazin-1-yl)benzoate (600 mg, yield 62%).

reactant | (S)-methyl 4-(8-((2,4-dimethoxybenzyl)amino)-3-(2-oxopiperidin-3-yl)imidazo[1,5-a]pyrazin-1-yl)benzoate | 1.82 mmol, 940 mg | COC1=C(CNC=2C=3N(C=CN2)C(=NC3C3=CC=C(C(=O)OC)C=C3)[C@H]3C(NCCC3)=O)C=CC(=C1)OC | C28H29N5O5
reactant | Lawesson's reagent | 3.65 mmol, 1.5 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | THF | C1CCOC1 | C4H8O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-methyl 4-(8-((2,4-dimethoxybenzyl)amino)-3-(2-thioxopiperidin-3-yl)imidazo[1,5-a]pyrazin-1-yl)benzoate | 600 mg, yield 62% | COC1=C(CNC=2C=3N(C=CN2)C(=NC3C3=CC=C(C(=O)OC)C=C3)[C@H]3C(NCCC3)=S)C=CC(=C1)OC | C28H29N5O4S
